US05308853
Methyl Z-4-[[2-butyl-5[2-[butyl[[(methoxymethyl)amino]carbonyl]amino]-2-carboxyethenyl]-1H-imidazol-yl]methyl]benzoate
To a solution of methyl Z-4-[[2-butyl-5-[[3-butyl-1-(methoxymethyl)-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate monohydrochlorde. (0.100 g, 0.193 mmol) in THF was added 1N NaOH (0.22 mL, 0.22 mmol) and then methanol (2 mL). The yellow solution was stirred for 1.5 hours and then 1N HCl (0.22 mL, 0.22 mmol) was added. The reaction mixture was evaporated in vacuo to a white solid. This solid was dissolved in ethyl acetate and water. The organic layer was dried briefly over MgSO4 and then concentrated to 1/6 original volume. An equal volume of hexane was added and the solid collected.

reactant | methyl Z-4-[[2-butyl-5-[[3-butyl-1-(methoxymethyl)-2,5-dioxo-4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate monohydrochlorde | Cl.C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)COC)=O)CCCC)CC1=CC=C(C(=O)OC)C=C1
reactant | NaOH | 0.22 mmol, 1N, 0.22 mL | [OH-].[Na+]
reactant | methanol | 2 mL | CO | CH4O
reactant | HCl | 0.22 mmol, 1N, 0.22 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | Methyl Z-4-[[2-butyl-5[2-[butyl[[(methoxymethyl)amino]carbonyl]amino]-2-carboxyethenyl]-1H-imidazol-yl]methyl]benzoate | C(CCC)C=1N(C(=CN1)\C=C(\C(=O)O)/N(C(=O)NCOC)CCCC)CC1=CC=C(C(=O)OC)C=C1 | C26H36N4O6
